US04425280
Zinc bis(methyl-glutamate) was prepared by reacting 12.2 grams of zinc oxide and 48.3 grams of monomethyl-glutamate also known in the art as glutamic acid 5-methyl ester as named in C.A.S. Reg. No. 1499-55-4, pg. 458 Aldrich Catalog Handbook 1979-80 in 500 ml of toluene in a one-liter, one-neck round-bottom flask equipped with a magnetic stirrer, reflux condenser and Dean-Stark Trap. The mixture was refluxed to obtain a theoretical amount of water in the Dean-Stark Trap. A white powdery product was recovered by filtration.

reactant | zinc oxide | 12.2 grams | [O-2].[Zn+2]
reactant | monomethyl-glutamate | 48.3 grams | COC([C@@H](N)CCC(=O)[O-])=O
reactant | glutamic acid 5-methyl ester | COC(CC[C@H](N)C(=O)O)=O | C6H11NO4
reactant | water | O | H2O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | Zinc bis(methyl-glutamate) | CN[C@@H](CCC(=O)[O-])C(=O)[O-].CN[C@@H](CCC(=O)[O-])C(=O)[O-].[Zn+2].[Zn+2] | InChI=1S/2C6H11NO4.2Zn/c2*1-7-4(6(10)11)2-3-5(8)9;;/h2*4,7H,2-3H2,1H3,(H,8,9)(H,10,11);;/q;;2*+2/p-4/t2*4-;;/m00../s1
